US04461896
(R)(+)-1-(3-Benzoylthio-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic Acid
The (R)(+)-1-(3-benzoylthio-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid dicyclohexylamine salt thus obtained (4.1 g) was suspended in 2-propanol (25 ml) and this mixture was cooled to 5° and treated with a solution of dry hydrogen chloride in 2 propanol unit pH 2. The resulting dicyclohexylamine hydrochloride was filtered and washed twice with 2-propanol. The combined filtrate and washings were concentrated under reduced pressure. The residue was dissolved in ether (30 ml) and filtered and evaporated. This residue in 2-propanol (25 ml) was cooled to 5° and the pH adjusted to 6-7 with 2% sodium hydroxide in ethanol. The product was collected by filtration, washed with 2-propanol, and then ether. The yield of (R)(+)-1-(3-benzoylthio-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid sodium salt was 2.0 g, m.p. 140°-144°, [α]D20 +221.3° (c 1, methanol).

reactant | (R)(+)-1-(3-benzoylthio-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid dicyclohexylamine salt | C1(CCCCC1)NC1CCCCC1.C(C1=CC=CC=C1)(=O)SCCC(=O)N1[C@H](CCC2=CC=CC=C12)C(=O)O
reactant | hydrogen chloride | Cl | ClH
reactant | propanol | C(CC)O | C3H8O
solvent | 2-propanol | 25 ml | CC(C)O | C3H8O
product | (R)(+)-1-(3-Benzoylthio-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic Acid | C(C1=CC=CC=C1)(=O)SCCC(=O)N1[C@H](CCC2=CC=CC=C12)C(=O)O | C20H19NO4S
